US03966938
Cis-8,9-dimethoxy-2-methyl-6-(4-phenylacetamidophenyl)-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine
30g of 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine and 6,0 g of phenylacetic acid chloride are heated to the boil under reflux in 70 ml of acetonitrile for 7 hours. After working up in a manner analogous to that described in Example 31, and upon adding dilute hydrochloric acid in ethanol to the crude product, the dihydrochloride form of the title compound slowly crystallizes (melting point 240°-245°).

reactant | 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | NC1=CC=C(C=C1)C1=NC2CCN(CC2C2=C1C=C(C(=C2)OC)OC)C | C21H25N3O2
reactant | phenylacetic acid chloride | 6,0 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | Cis-8,9-dimethoxy-2-methyl-6-(4-phenylacetamidophenyl)-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)NC(CC2=CC=CC=C2)=O)C1)OC | C29H31N3O3
